US08134001B2
In a manner similar to the method described in example 1d, 2-(2,6-dimethyl-pyridin-4-yloxy)-5-iodo-benzaldehyde (2.63 g, 7.4 mmol) was reacted with 1,1,1,3,3,3-hexamethyldisilazane (1.55 mL, 7.4 mmol), n-butyllithium (2.5 M, 2.98 mL, 7.4 mmol), trimethylsilyl chloride (0.945 mL, 7.4 mmol), triethylamine (1.34 mL, 9.7 mmol) and acetyl chloride (0.68 mL, 9.7 mmol) to give crude 1-[2-(2,6-dimethyl-pyridin-4-yloxy)-5-iodo-phenyl]-3-trimethylsilyoxy-2-aza-1,3-butadiene as a yellow gum and used for the next step without further purification.

reactant | 2-(2,6-dimethyl-pyridin-4-yloxy)-5-iodo-benzaldehyde | 7.4 mmol, 2.63 g | CC1=NC(=CC(=C1)OC1=C(C=O)C=C(C=C1)I)C | C14H12INO2
reactant | 1,1,1,3,3,3-hexamethyldisilazane | 7.4 mmol, 1.55 mL | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | n-butyllithium | 7.4 mmol, 2.5 M, 2.98 mL | C(CCC)[Li]
reactant | trimethylsilyl chloride | 7.4 mmol, 0.945 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | triethylamine | 9.7 mmol, 1.34 mL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 9.7 mmol, 0.68 mL | C(C)(=O)Cl | C2H3ClO
product | 1-[2-(2,6-dimethyl-pyridin-4-yloxy)-5-iodo-phenyl]-3-trimethylsilyoxy-2-aza-1,3-butadiene | CC1=NC(=CC(=C1)OC1=C(C=C(C=C1)I)C=NC(=C)O[Si](C)(C)C)C | C19H23IN2O2Si
